US08242104B2
To a solution of {[(E)-8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonylimino]-methylthiomethyl}-carbamic acid tert-butyl ester (0.658 g, 0.00137 mol) in N,N-dimethylformamide (7.50 mL) was added N,N-Diisopropylethylamine (0.9524 mL, 0.005468 mol) then isopropylhydrazine hydrochloride (0.2267 g, 0.002050 mol). The reaction was stirred at room temperature for 4 h. Water and methylene chloride were added and the mixture was extracted 3× with methylene chloride. The organic layers were combined, dried with MgSO4 and concentrated. The crude was purified by flash chromatography (0-10% MeOH in DCM) to give [5-(8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-2-yl)-1-isopropyl-1H-[1,2,4]triazol-3-yl]-carbamic acid tert-butyl ester (642 mg) a sticky light yellow solid. The material was carried forward without any further purification. MS (ESI+) 489.1/491.1

reactant | {[(E)-8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonylimino]-methylthiomethyl}-carbamic acid tert-butyl ester | 0.00137 mol, 0.658 g | C(C)(C)(C)OC(N\C(\SC)=N/C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br)=O | C19H21BrN4O4S
reactant | N,N-Diisopropylethylamine | 0.005468 mol, 0.9524 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isopropylhydrazine hydrochloride | 0.002050 mol, 0.2267 g | Cl.C(C)(C)NN
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 7.50 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [5-(8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-2-yl)-1-isopropyl-1H-[1,2,4]triazol-3-yl]-carbamic acid tert-butyl ester | 642 mg | C(C)(C)(C)OC(NC1=NN(C(=N1)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br)C(C)C)=O | C21H25BrN6O3
